US05459151
3-cyclopentylmethyl-4-methoxybenzaldeyde
To a stirred mixture of 1-cyclopentylmethyl-2-methoxybenzene (383 mmol, 72.7 g) in trifluoroacetic acid (3.83 mol, 435 g; 294 mL) was added hexamine (766 mmol, 107 g) in one portion at room temperature, resulting in an exothermic reaction. After the exotherm had subsided, the reaction mixture was heated to 100° C. for 18 hours and cooled to room temperature. The heterogenous mixture was diluted with CH2Cl2 (800 mL) and the resulting homogenous solution was cooled to 0° C. and neutralized to pH 7 by the dropwise addition of 2.5N NaOH (~1L). The layers were separated, the aqueous phase extracted with CH2Cl2 (1×600 mL), dried (Na2SO4), and concentrated in vacuo to afford a viscous oil. Purification by filtration through a plug of SiO2 (gradient elution: 1) hexane, 2) 36:1 hexane/EtOAc, 3) 18:1 hexane/EtOAc, 4) 12:1 hexane/EtOAc, 5) 8:1 hexane/EtOAc) afforded the title compound as a light yellow oil (46.6 g, 56%).

reactant | 1-cyclopentylmethyl-2-methoxybenzene | 383 mmol, 72.7 g | C1(CCCC1)CC1=C(C=CC=C1)OC | C13H18O
reactant | trifluoroacetic acid | 3.83 mol, 294 mL, 435 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamine | 766 mmol, 107 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentylmethyl-4-methoxybenzaldeyde | 46.6 g, 56% | C1(CCCC1)CC=1C=C(C=O)C=CC1OC | C14H18O2
